US07288564B2
4-[(1E)-3-tert-butoxy-3-oxoprop-1-enyl]-2-{[(5-methoxy-2-methyl-1H-indol-3-yl)acetyl]amino}benzoic acid
To methyl 4-bromo-2-{[(5-methoxy-2-methyl-1H-indol-3-yl)acetyl]amino}benzoate (20 mg) was added palladium acetate (2 mg), tri-o-tolylphosphine (3 mg), t-butyl acrylate (33 μl), triethylamine (32 μl) and dimethylformamide (1 ml). After heating at 110° C. for 18 h, the solvent was removed in vacuo and the residue diluted with dichloromethane (10 ml) and washed with 5% citric acid (5 ml). Purification by SPE eluting with dichloromethane, chloroform, and chloroform: ether mixtures afforded the title compound (5 mg), MH+ 465; MH− 463; TR 4.47 min.

reactant | methyl 4-bromo-2-{[(5-methoxy-2-methyl-1H-indol-3-yl)acetyl]amino}benzoate | 20 mg | BrC1=CC(=C(C(=O)OC)C=C1)NC(CC1=C(NC2=CC=C(C=C12)OC)C)=O | C20H19BrN2O4
reactant | tri-o-tolylphosphine | 3 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | t-butyl acrylate | 33 μl | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | triethylamine | 32 μl | C(C)N(CC)CC | C6H15N
catalyst | palladium acetate | 2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 4-[(1E)-3-tert-butoxy-3-oxoprop-1-enyl]-2-{[(5-methoxy-2-methyl-1H-indol-3-yl)acetyl]amino}benzoic acid | 5 mg | C(C)(C)(C)OC(/C=C/C1=CC(=C(C(=O)O)C=C1)NC(CC1=C(NC2=CC=C(C=C12)OC)C)=O)=O | C26H28N2O6
